US04278602
Taking an overall evaluation of the second and third reaction (which simulate a plant operating with recycle but without recycling the hydroxyketone), a 2,6,6-trimethyl-2-cyanomethyltetrahydropyran yield of 52.9 mol % is obtained with respect to the 2-methyl-heptan-2-ol-6-one introduced into the reaction. As the hydroxyketone conversion during each test is about 80%, it is foreseeable that the overall pyran nitrile yield would rise to around 66 mol % if the unconverted hydroxyketone was also recycled.

reactant | hydroxyketone | OC(=O)O | CH2O3
reactant | 2,6,6-trimethyl-2-cyanomethyltetrahydropyran | CC1(OC(CCC1)(C)C)CC#N | C10H17NO
product | 2-methyl-heptan-2-ol-6-one | CC(C)(CCCC(C)=O)O | C8H16O2
